US04971963
3-[(2-Amidinomethylthio-1,3,4-thiadiazol-5-yl) thiomethyl]-7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-(Z) -2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid:
To a solution of 371 mg of sodium 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-(Z)-2-methoxyiminoacetamido]-3-hydroxymethyl-3-cephem-4-carboxylate and 309 mg of 2-amidinomethylthio-5-mercapto-1,3,4-thiadiazole in 10 ml of DMF was added 600 mg of ethyl o-phenylenephosphate under stirring at -20° C. After stirring at -20° C. to 0° C. for 60 minutes, the mixture was subjected to a column chromatography on silica gel (100 g), being washed with acetonitrile and eluted with acetonitrile/water (4:1). The eluate was concentrated under reduced pressure, and the resultant solid was dissolved in dilute hydrochloric acid. This aqueous solution was subjected to a column chromatography on XAD-II (150 ml), being washed with water and eluted with 30% aqueous ethanol. The eluate was concentrated under reduced pressure and lyophilized to give 381 mg of the title compound as a colorless powder.

reactant | sodium 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-(Z)-2-methoxyiminoacetamido]-3-hydroxymethyl-3-cephem-4-carboxylate | 371 mg | NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CO)C(=O)[O-])C1=O)=N/OC.[Na+]
reactant | 2-amidinomethylthio-5-mercapto-1,3,4-thiadiazole | 309 mg | C(N)(=N)CSC=1SC(=NN1)S | C4H6N4S3
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-[(2-Amidinomethylthio-1,3,4-thiadiazol-5-yl) thiomethyl]-7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-(Z) -2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid | 381 mg | C(N)(=N)CSC=1SC(=NN1)SCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(\C(=N/OC)\C2=NSC(=N2)N)=O)=O | C17H18N10O5S5
